US04533688
(b) 2-Chloro-4,6-bis[N-dodecyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine
A solution of 35.7 g of 4-dodecylamino-2,2,6,6-tetramethylpiperidine in 50 ml of xylene was added dropwise at 20°-25° C. to a solution of 9.2 g of cyanuric chloride in 250 ml of xylene. The mixture was stirred for 1.5 hours at the same temperature and then for 5 hours at 50°-55° C. At the end of this time, the reaction mixture was neutralised with an aqueous solution of potassium carbonate, and the xylene layer was separated and dried over anhydrous potassium carbonate. The xylene was distilled off and the resulting oil was purified by column chromatography through silica gel eluted with a 20:20:3:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine to give the title compound as an oil. The Rf value of this compound on thin layer chromatography was 0.28, using silica gel and using, as developing solvent, a 20:20:3:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 4-dodecylamino-2,2,6,6-tetramethylpiperidine | 35.7 g | C(CCCCCCCCCCC)NC1CC(NC(C1)(C)C)(C)C | C21H44N2
reactant | cyanuric chloride | 9.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloro-4,6-bis[N-dodecyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)CCCCCCCCCCCC)N(CCCCCCCCCCCC)C1CC(NC(C1)(C)C)(C)C | C45H86ClN7
